US08729061B2
Step 2: (2S,4R)-1-(1-(5-chloro-3-fluoropyridin-2-yl)cyclopropanecarbonyl)-4-(2-chloro-4-(2,2,2-trifluoroethoxy)phenylsulfonyl)pyrrolidine-2-carboxylic acid
The title compound was prepared in analogy to General Procedure C, steps C4-C6, using (2S,4R)-1-tert-butyl 2-methyl 4-(2-chloro-4-(2,2,2-trifluoroethoxy)phenylsulfonyl)pyrrolidine-1,2-dicarboxylate in step C4, and 1-(5-chloro-3-fluoro-pyridin-2-yl)-cyclopropanecarboxylic acid in step C5. MS (m/e)=584.9 [M+H+].

reactant | (2S,4R)-1-tert-butyl 2-methyl 4-(2-chloro-4-(2,2,2-trifluoroethoxy)phenylsulfonyl)pyrrolidine-1,2-dicarboxylate | ClC1=C(C=CC(=C1)OCC(F)(F)F)S(=O)(=O)[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C19H23ClF3NO7S
reactant | 1-(5-chloro-3-fluoro-pyridin-2-yl)-cyclopropanecarboxylic acid | ClC=1C=C(C(=NC1)C1(CC1)C(=O)O)F | C9H7ClFNO2
product | (2S,4R)-1-(1-(5-chloro-3-fluoropyridin-2-yl)cyclopropanecarbonyl)-4-(2-chloro-4-(2,2,2-trifluoroethoxy)phenylsulfonyl)pyrrolidine-2-carboxylic acid | ClC=1C=C(C(=NC1)C1(CC1)C(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=C(C=C1)OCC(F)(F)F)Cl)C(=O)O)F | C22H18Cl2F4N2O6S
